US05240925
e. Preparation of 1-[2-(4-Chlorophenyl)-2-cyano-5-(2,6-dimethyl-4-morpholinyl)pentyl]-1,2,4-triazole
This compound (1.2 g.) was prepared using the procedure described in Example 2b except using 1.0 g. (3.3 mmoles) of 2-(4-chlorophenyl)-5-(2,6-dimethyl-4-morpholinyl)valeronitrile, 0.38 g. (3.3 mmoles) of 1-(chloromethyl)-1,2,4-triazole, and 0.16 g. (3.6 mmoles) of sodium hydride in 35 ml. of DMF and was isolated as a yellow oil.

reactant | 2-(4-chlorophenyl)-5-(2,6-dimethyl-4-morpholinyl)valeronitrile | 3.3 mmoles | ClC1=CC=C(C=C1)C(C#N)CCCN1CC(OC(C1)C)C | C17H23ClN2O
reactant | 1-(chloromethyl)-1,2,4-triazole | 3.3 mmoles | ClCN1N=CN=C1 | C3H4ClN3
reactant | sodium hydride | 3.6 mmoles | [H-].[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
product | 1-[2-(4-Chlorophenyl)-2-cyano-5-(2,6-dimethyl-4-morpholinyl)pentyl]-1,2,4-triazole | ClC1=CC=C(C=C1)C(CN1N=CN=C1)(CCCN1CC(OC(C1)C)C)C#N | C20H26ClN5O
